US07098226B2
Anhydrous N,N-dimethylformamide (41 ml) was added to sodium hydride (2.81 g, 70.3 mmol) under a nitrogen atmosphere, and the mixture was stirred under ice-cold water-cooling. A solution of t-butyl acetoacetate (6.33 g, 40.0 mmol) in N,N-dimethylformamide (20 ml) was added dropwise to the mixture over 10 minutes, after 10 minutes, 4-(chloromethyl)pyridine hydrochloride (5.00 g, 30.5 mmol) was added thereto little by little under a nitrogen stream over three minutes, and the temperature was raised to room temperature. After two hours, a saturated aqueous sodium hydrogencarbonate solution (150 ml) was added to the reaction mixture, and the whole was extracted with ethyl acetate (100 ml). The organic layer was washed with water (100 ml) and saturated brine (50 ml) successively and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give 1.34 g (18%) of ethyl 2-acetyl-3-(4-pyridyl)propionate as a pale yellow oily matter.

reactant | sodium hydride | 70.3 mmol, 2.81 g | [H-].[Na+]
reactant | t-butyl acetoacetate | 40.0 mmol, 6.33 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | 4-(chloromethyl)pyridine hydrochloride | 30.5 mmol, 5.00 g | Cl.ClCC1=CC=NC=C1
reactant | sodium hydrogencarbonate | 150 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 41 ml | CN(C=O)C | C3H7NO
product | ethyl 2-acetyl-3-(4-pyridyl)propionate | 1.34 g, 18% | C(C)(=O)C(C(=O)OCC)CC1=CC=NC=C1 | C12H15NO3
